US03988332
a solution of 0.5 g of trineopentyltantalum dichloride and 0.17 g of neopentyllithium in 4 ml of pentane was allowed to stand at room temperature for 24 hr in a glass vessel wrapped in foil. (In later experiments it was found that the foil wrapping was unnecessary.) The lithium chloride that had precipitated was separated by filtration, and the filtrate was allowed to stand for another 24 hr at room temperature. No more solid precipitated during this time. Volatile materials were removed under reduced pressure to give trineopentyl(neopentylidene)tantalum, (C5H11)3Ta=C5H10, as an orange crystalline solid.

reactant | trineopentyltantalum dichloride | 0.5 g | [Cl-].[Cl-].C(C(C)(C)C)[Ta+2](CC(C)(C)C)CC(C)(C)C
reactant | neopentyllithium | 0.17 g | C(C(C)(C)C)[Li]
solvent | pentane | 4 ml | CCCCC | C5H12
product | trineopentyl(neopentylidene)tantalum | C(C(C)(C)C)[Ta](=CC(C)(C)C)(CC(C)(C)C)CC(C)(C)C | InChI=1S/3C5H11.C5H10.Ta/c4*1-5(2,3)4;/h3*1H2,2-4H3;1H,2-4H3;
